US07572809B2
The mixture of (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (1 g), 40% aq. HBr (15 ml), acetic acid (50 ml) was heated at 120° C. for 8 hours. After reaction finished, the mixture was evaporated to oil and diluted with 20 ml of ethyl acetate. The organic layer was washed with aq. NaHCO3 and was evaporated to give 450 mg of crude 1-Bromo-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol by reduced pressure. LC-MS m/e 319(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 1 g | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | HBr | 15 ml | Br | BrH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-Bromo-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 450 mg | BrC1=NC(=CC2=CC(=CC=C12)O)NC1=NNC(=C1)C | C13H11BrN4O
